US09388161B2
A glass, screw-cap vial equipped with a magnetic stir bar was charged with a solution of rac-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline (0.050 g, 0.21 mmol) in dichloromethane (1 mL) and pyridine (0.051 mL, 0.630 mmol). The solution was cooled to 0° C. and acetyl chloride (0.015 mL, 0.210 mmol) was added. The ice bath was removed and the reaction mixture stirred at rt. After 10 min, the reaction mixture was diluted with dichloromethane and washed with 1 N aqueous hydrochloric acid solution (2×1 mL) followed by 5% aqueous sodium chloride solution (1 mL). The organic layer was concentrated to a yellow oil, which crystallized upon standing. The crude product was purified by preparative thin layer chromatography (1×1000 micron plate, eluting with 2:1 hexanes-ethyl acetate) to yield 1-(2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.0189 g, 32%) as a nearly colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.13 (d, J=6.60 Hz, 3 H), 1.36-1.55 (m, 1H), 2.11-2.27 (m, 4H), 2.36 (br s, 1H), 2.85 (dt, J=16.04, 6.09 Hz, 1H), 4.88 (br s, 1H), 6.76 (d, J=8.80 Hz, 1H), 6.89-6.96 (m, 2H), 6.96-7.04 (m, 1H), 7.04-7.11 (m, 1H), 7.12-7.19 (m, 1H), 7.29-7.37 (m, 2H). MS (ESI, pos. ion) m/z 282 [M+H]+.

reactant | rac-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline | 0.21 mmol, 0.050 g | CC1NC2=CC=CC(=C2CC1)OC1=CC=CC=C1 | C16H17NO
reactant | pyridine | 0.630 mmol, 0.051 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.210 mmol, 0.015 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.0189 g, 32% | CC1N(C2=CC=CC(=C2CC1)OC1=CC=CC=C1)C(C)=O | C18H19NO2
